US07732446B1
As described in Example 1, 94 mg of [1-(tert-butoxycarbonylamino-methyl)-6,7-dimethoxy-isoquinolin-4-yl]-acetic acid was coupled with methyl-(2-pyridin-2-yl-ethyl)-amine to give 78 mg of (6,7-dimethoxy-4-{[methyl-(2-pyridin-2-yl-ethyl)-carbamoyl]-methyl}-isoquinolin-1-ylmethyl)-carbamic acid tert-butyl ester. MS: APCI (M+H) calc'd for C27H34N4O5+H 495.6; found 495.1.

reactant | [1-(tert-butoxycarbonylamino-methyl)-6,7-dimethoxy-isoquinolin-4-yl]-acetic acid | 94 mg | C(C)(C)(C)OC(=O)NCC1=NC=C(C2=CC(=C(C=C12)OC)OC)CC(=O)O | C19H24N2O6
reactant | methyl-(2-pyridin-2-yl-ethyl)-amine | CNCCC1=NC=CC=C1 | C8H12N2
product | (6,7-dimethoxy-4-{[methyl-(2-pyridin-2-yl-ethyl)-carbamoyl]-methyl}-isoquinolin-1-ylmethyl)-carbamic acid tert-butyl ester | 78 mg | C(C)(C)(C)OC(NCC1=NC=C(C2=CC(=C(C=C12)OC)OC)CC(N(CCC1=NC=CC=C1)C)=O)=O | C27H34N4O5
